* Fixed PCR-800550: modified this file for Reserved Keywords, ramant
*****************************************************************
* Level2 Version of 1200V IGBT3/EMCON HEDIODE Models july 2002	*
*****************************************************************
* INFINEON TECHNOLOGIES AG      		IKW_T120_L2.LIB	*
*								*
*  (V2.0)     	07/02  						*
*                                                               *
* Models provided by INFINEON are not warranted by INFINEON as  *
* fully representing all of the specifications and operating    *
* characteristics of the semiconductor product to which the     *
* model relates. The model describe the characteristics of a    * 
* typical device.                                               * 
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. INFINEON therefore does not  *
* assume any liability arising from their use.                  *
* INFINEON reserves the right to change models without prior    * 
* notice.                                                       *
*                                                               *
* This library contains Level 2 models for the following	* 
* INFINEON Technologies 1200 V IGBT3/EMCON HE Power Diodes	*
* devices/chip-models including lead inductances related	*
*								*
* devices/chip-models including lead inductances related	*
* to packages:							*
* type		BV/V	Ice/A					*	
* IKW08T120	1200	8					*	
* IKW15T120	1200	15					*		
* IKW25T120	1200	25					*		
* IKW35T120	1200	35					*		
* 								*
* the model is based on the publication:			*
* 								*
* R.Kraus, P.Türkes, J.Sigg					*
* Physics-based Models Of Power Semiconductor Devices 		*
* For The Circuit Simulator Spice				*
* 								*
* Power Electronics Specialists Conference, 1998.		* 
* PESC 98 Record. 29th Annual IEEE				*
*								*
* SUPPORTemail:	simulate@infineon.com				*
*****************************************************************
*$
.SUBCKT IKW08T120_L2 ano gate kat PARAMS:	TJ = 27
* 
LANO	ano	anol		5n
RLAN	ano	anol		1
LKAT	katl	kat		7n	
RLK	katl	kat		1
XL76xxA anol	gate	katl	L76xxA-L2	PARAMS:  TJ = {TJ} Atotal = 0.124	A = 0.069 Rg = 1m
XDIO	kat	anol		L4XXX_ET	PARAMS:  TJ = {TJ} A=0.0473	N_ideal = 1.05
.ENDS
*$
.SUBCKT IKW15T120_L2  ano gate kat PARAMS:	TJ = 27
*
LANO	ano	anol		5n
RLAN	ano	anol		1
LKAT	katl	kat		7n	
RLK	katl	kat		1
XL76xxA anol	gate	katl	L76xxA-L2 	PARAMS:   TJ = {TJ} Atotal = 0.197	A = 0.128  Rg = 1m
XDIO	kat	anol		L4XXX_ET	PARAMS:	  TJ = {TJ} A=0.065	N_ideal = 1.05
.ENDS
*$
.SUBCKT IKW25T120_L2 ano gate kat PARAMS:	TJ = 27
* 
LANO	ano	anol		5n
RLAN	ano	anol		1
LKAT	katl	kat		7n	
RLK	katl	kat		1
XL76xxA anol	gate	katl	L76xxA-L2 	PARAMS: TJ = {TJ}  Atotal = 0.316	A = 0.215  Rg = 8
XDIO	kat	anol		L4XXX_ET	PARAMS: TJ = {TJ}  A=0.098	N_ideal = 1.05
.ENDS
*$
.SUBCKT IKW40T120_L2 ano gate kat PARAMS:	TJ = 27
* 
LANO	ano	anol		5n
RLAN	ano	anol		1
LKAT	katl	kat		7n	
RLK	katl	kat		1
XL76xxA anol	gate	katl	L76xxA-L2 	PARAMS:  TJ = {TJ}  Atotal = 0.414	A = 0.301  Rg = 6
XDIO	kat	anol		L4XXX_ET	PARAMS:  TJ = {TJ}  A=0.165	N_ideal = 1.05
.ENDS
*$
.SUBCKT	L4XXX_ET anode	kath	PARAMS: 	TJ = 27 A = 1 N_ideal = 1
.PARAM q = 1.602e-19 eps0 = 8.85e-14	epsi = 11.8
+kb = 1.38e-23	T0 = 273 ni0 = 1.45e10
+un = 1350 up = 450
.PARAM  Nem = .45e16	tau = 5u	Nd0 = 1e17	wbx = 3e-4
.PARAM  Nd = 1e14	wem = 4e-4	w0 = 115e-4
.PARAM	SF = -1.0	BV = 1400	Rc = .6m
.PARAM	vlimit =70e6
.PARAM  Vdiff=  5.9505e-4
.PARAM  Ut =	23.52m
.PARAM  D =	15.87
.PARAM  L =	8.91e-3
.PARAM	Ise0 =	{A*594.15p}
.PARAM	Ise_g  = {A*0.555p}
.PARAM  Ism0 =	{A*0.8275u}
.PARAM	Ism_g = {A*3.204e-19}
.PARAM  CJ0 =	{A*3.457n}
.PARAM  QN =	{A*0.1842u}
.PARAM  XF =	3611
.PARAM	VPT=	1014
.PARAM  a0 =	{SF*0.5685}
.PARAM  a1 =	{(up/un)*(1 + a0)/(1 - a0)}
.PARAM  a2 =	{0.1/((1 - 0.5*(1 - a1*a1)*(1 - a0)) )}
.PARAM  Rd0 =	{0.5312/A}
.PARAM	Ra =	{1.233m/A}
RSERIE	anode	ano	{Ra}
GDE	ano	mi	VALUE = 
+ {LIMIT(TANH(1e3*I(VDE))*(((ISE(TJ)**((t0 + TJ)/(t0 + 27)))/ISE(27))**((t0 + 27)/(t0 + TJ)) 
+ * ABS(I(VDE))**((t0 + 27)/(t0 + TJ)) - ABS(I(VDE))),-1e6,1e6)}
GD0	ano	mi1	VALUE = 
+ {LIMIT(TANH(1e3*I(VD0))*(((ISM(TJ)**((t0 + TJ)/(t0 + 27)))/ISM(27))**((t0 + 27)/(t0 + TJ))
+ * ABS(I(VD0))**((t0 + 27)/(t0 + TJ)) - ABS(I(VD0))),-1e6,1e6)}
VDE	ano	ano1	0
DE	ano1	mi	D1
D0	ano2	mi1	D2
VD0	ano	ano2	0
.model	D1	D	(is={Ise0}, N= {N_ideal})
.model  D2	D	(is={Ism0}, N=2)
VID0	mi1	mi	0
VITOT	kat	kathv	0
EVDIFF	kathv	kath	VALUE = {(TJ + t0)* Vdiff}
EGIR	mi	kat	VALUE = {I(VITOT)*Rd(V(q,0),TJ)}
GID	ano	mi	VALUE = {IQ(V(xj1,0),I(VID0),V(q,0),I(VDXJ),TJ) - I(VIJCT)}
RGID	mi	0	100meg
CQB	q	0	1u
RHELP	q	0	1meg
GRQB	q	0	VALUE = {1u*V(q,0)/(5u*((TJ + t0)/300)**2) }
GIQ	0	q	VALUE = {MAX(I(VID0),0) + IQ(V(xj,0),I(VID0),V(q,0),I(VDXJ),TJ)}
EXJ	xj1 0	VALUE	{MAX(xj(V(ano,mi),I(VITOT),V(xj1,0)),1e-4) }
CXJ	xj  0	1n
VDXJ	xj1 xj	0
EJUNCT	jct 0	VALUE = {LIMIT(V(kat,ano),0,VPT)}
VIJCT	jct cp	0
DJCT	0   cp	DXXX
.MODEL  DXXX	D (is = 1p, CJO= {CJ0})
.FUNC   EG(T)			{1.16 - 7.02e-4*(T + t0)**2/(T + t0 + 1108)}
.FUNC	DA(T)			{2*kb*un*up/q/(un + up)*(T + t0)*(((T + t0)/300)**-1.5)}
.FUNC   ISE(T)  		{(T + t0)*un*(((T + t0)/300)**-1.5)*((ise_g*(ni0*((T + t0)/300)**1.5*exp(1/(2*8.61e-5)
+ *(-300*EG(T)+(t0 + T)*EG(27))/(T + t0)/300)))
+ *(kb*(ni0*((T + t0)/300)**1.5*exp(1/(2*8.61e-5)*(-300*EG(T)+(t0 + T)*EG(27))/(T + t0)/300))))}
.FUNC	ISM(T)			{Ism_g*(ni0*((T + t0)/300)**1.5*exp(1/(2*8.61e-5)*(-300*EG(T)+(t0 + T)*EG(27))/(T + t0)/300))
+ *sqrt(DA(T)/(5u*((T + t0)/300)**2))}
.FUNC	xj(V,Y2,X) {0.5*((XF*XF*((1-limit(V,-VPT,0)))/(Nd+MAX(up*(-Y2)/(un+up),0)/A/q/(vlimit)))/X + X)}
.FUNC	w(V)			{MAX((w0-V)*(1 + a1),1e-4)}
.FUNC	Rd(Z,T)			{w0*w0/(un*QN*(((T + t0)/300)**-1.5) + (un + up)*MAX(Z,1m*QN)*1e-6*(((T + t0)/300)**-1.5))}
.FUNC	Td(V,U,T) 		{a2*w(V)*w(V)/DA(T)/(1 + w(V)*1e9*LIMIT(U,0,1)/4/DA(T))}
.FUNC	IQ(V,Y,Z,U,T)		{((Tau*((T + t0)/300)**2)*Y - MAX(Z,1m*QN)*1e-6)/(Td(V,U,T))}
.ENDS
*$
.SUBCKT L76xxA-L2 ano gate kat PARAMS: TJ = 27 Atotal = 1.5 A = 1.2 Rg = 1
.PARAM 
+q = 1.6E-19	eps0 = 8.85E-14	epsi = 11.8	eox= 2.8  
+t0= 273	k=1.381e-23	
+un = 1350      up = 450	u_surf= 600	ni0=1.45e10
+vlimit = 70e6 mod_pi = 3.1416 mv= .5
.PARAM
+tox = 100e-7	ttox = 1.5e-4	tfox= 1.2e-4
+Nak = 1.7e17 	Nbuf=1e15	wbuf= 20e-4	
+Nb = 6E13   taub = .6u	ETAUB = 2       wb0 = 114E-4 EMU = -2
+BV_FW=1400	BV_RW=28  
.PARAM wb = 134e-4  lchann3=2.5e-6 Lspec = {mv*wbuf/tan(mod_pi*(0.5 - Nb/Nbuf))}
.PARAM vsw = -.5 Rs = 0.896m
.PARAM nzell = 		{A*206611}
.PARAM Ads =		{nzell*5.329e-7}
.PARAM wchann=		{nzell*2.92e-5}
.PARAM Cox_d = 		{nzell*1.9537e-14}
.PARAM Cox1 = 		{nzell*1.071e-13}
.PARAM Cox2 =		{nzell*7.496e-15}
.PARAM Cox_fp =		{(Cox1 + Cox2)}
.PARAM Cgs = 		{nzell*1.921e-14}
.PARAM Cjs =		{A * 2.678n}
.PARAM Cje =		{Atotal * 2.678n}	
.PARAM Agd_d  =		{Cox_d*4.036e7}
.PARAM Agd_fp  =	{A - nzell*1.21e-6}
.PARAM  D  =		17.55
.PARAM  L  =		3.245m  
.PARAM Ise0 =		{A*27.649p}
.PARAM Isbs2=		{A*7.834p} 
.PARAM Isbs2_g=		{A*5e-15} 
.PARAM Isbs1=		{A*1.675e-5} 
.PARAM Isbs1_g=		{A*2.136e-19} 
.PARAM  Q0 =		{A*9.612u*114e-4}
.PARAM  VPT=		600
.PARAM  XF =	1.445u
MFET    dx	g	s	s	MOS W={wchann},L={lchann3},IC=OFF
GMFET_T	dn	kat	VALUE = {LIMIT(I(VIMOS)*((TJ+t0)/300)**EMU,0,1e6) }
GDE1	ano	e1	VALUE = 
+ {LIMIT(TANH(1e3*I(VDE1))*(((Isx1(TJ,V(xj1,0))**((t0 + TJ)/(t0 + 27)))/Isx1(27,V(xj1,0)))**((t0 + 27)/(t0 + TJ)) 
+ * ABS(I(VDE1))**((t0 + 27)/(t0 + TJ)) - ABS(I(VDE1))),-1e6,1e6)}
GDE2	ano	e1	VALUE = 
+ {LIMIT(TANH(1e3*I(VDE2))*(((Isx2(TJ)**((t0 + TJ)/(t0 + 27)))/Isx2(27))**((t0 + 27)/(t0 + TJ)) 
+ * ABS(I(VDE2))**((t0 + 27)/(t0 + TJ)) - ABS(I(VDE2))),-1e6,1e6)}
VDE1	ano	anx1	0
VDE2	ano	anx2	0
DE1	anx1	e1	D11
DE2	anx2	e1	D12
DS      kat	d	D2  
.MODEL  MOS     NMOS    (LEVEL=3,nsub={Nak},tox={tox/100},vmax={vlimit},uo={u_surf},cgso=1p,cgdo=1p)
.MODEL	D11	D	(IS = {Isbs1}, N = 2)
.MODEL	D12	D	(IS = {Isbs2}, N = 1.2)
.MODEL  D2      D       (IS={ISE0},BV={BV_FW},CJO={CJS})
RG1	g_t	g	{(Rg + .25)/(((TJ + t0)/300)**EMU)}
RS	s	kat	{Rs/A}
ETHERM  gate	g_t	VALUE = {DVt(TJ)}
EVGCOX	vgcox	0	VALUE { V(ox_d,kat)-{vsw} }
GICOX_fp  g	ox_fp	VALUE = {LIMIT(((Cox_fp)/100 + 99*Cox_fp*(1+ tanh(100*V(vgcox)) )/200)* 1e9*I(VDUGD_fp),-100,100)}
GICOX_d  g	ox_d	VALUE = {LIMIT(((Cox_d)/100 + 99*Cox_d*(1+ tanh(100*V(vgcox,0)) )/200)* 1e9*I(VDUGD_d),-100,100)}
GICGS	g	s	VALUE = {LIMIT((Cgs + 99*(Cox_fp)*(1 + tanh(-100*V(vgcox)) )/200)* 1e9*I(VDUGS),-100,100)}
ECOX_fp  cox_fp	0	VALUE = {(Cox_fp)/100 + 99*Cox_fp*(1+ tanh(100*V(vgcox,0)) )/200}
ECOX_d  cox_d	0	VALUE = {(Cox_d)/100 + 99*Cox_d*(1+ tanh(100*V(vgcox,0)) )/200}
ECGS	cgs	0	VALUE = {Cgs + 99*(Cox_fp+Cox_d)*(1 + tanh(-100*V(vgcox,0)) )/200}
VIA	e1	e	0
EDEP_fp	d	ox_fp	VALUE = {LIMIT(Vdep_fp(V(d,g),V(xj1,0)),0,V(d,g))}
R_fp	ox_fp	0	100meg
EDEP_d	d	ox_d	VALUE = {LIMIT(Vdep_d(V(d,g),V(xj1,0)),0,V(d,g))}
R_d	ox_d	0	100meg
EGIA	e	d	VALUE = {I(VIA)*Rb(V(b,0),TJ,V(xj1,0))}
VINC	d	dn	0
EAUX1	dxv 	kat	VALUE = {V(d,s)}
VIMOS	dxv	dx	0
GIC	ds	s	VALUE = {LIMIT(IPC(I(VINC),V(b,0),V(xj1,0),I(VDXJ),TJ),0,1e6)}
RGIC	ds	0	100meg
VIPC	d	ds	0
CQB	b 0	1u
RHELP	b 0	1meg
GRQB	b 0	VALUE   {LIMIT(1u*V(b,0)*(1/(TAU_X(TJ,V(xj1,0)) )),0,1e6) }
GINC	0 b	VALUE	{LIMIT(I(VINC),0,1e6)}
GINE	b 0	VALUE	{LIMIT(INE(I(VINC),V(b,0),V(xj1,0),I(VDXJ),TJ),0,1e6)}
EXJ	xj1 0	VALUE	{LIMIT(xj(V(d,kat),I(VIPC),MAX(V(xj1,0),1e-4)), 1e-4,wb - .5e-4)}
CXJ	xj  0	1n
VDXJ	xj1 xj	0
EDUGS	du1	0	VALUE {V(g,s)}
VDUGS	du1	du1c	0	
CDUGS	du1c	0	1n
EDUGD_d	du2	0	VALUE {V(g,ox_d)}
VDUGD_d	du2	du2c	0	
CDUGD_d	du2c	0	1n
EDUGD_fp	du3	0	VALUE {V(g,ox_fp)}
VDUGD_fp	du3	du3c	0	
CDUGD_fp	du3c	0	1n
EJUNCT	jct 0	VALUE = {MAX(QTOT(V(xj1,0)),0)}
VIJCT	jct cp	0
CJCT	0   cp	1
.FUNC  N1(X)		{(2*Nb + Nbuf)*mod_pi*X}
.FUNC  N2(X)		{Nbuf*Lspec*log(1+((X-wb0)/Lspec)**2)}
.FUNC  N3(X)		{2*Nbuf*arctan((-X+wb0)/Lspec)*(wb0-X)}
.FUNC  QTOT(X)	{q*A/2/mod_pi*(N1(X)-N2(X)+N3(X)+Nbuf*(Lspec*log((Lspec**2+wb0**2)/Lspec**2)-2*wb0*arctan(wb0/Lspec)))}
.FUNC  QCOX(X)	{q/2/mod_pi*(N1(X)-N2(X)+N3(X)+Nbuf*(Lspec*log((Lspec**2+wb0**2)/Lspec**2)-2*wb0*arctan(wb0/Lspec)))}
.FUNC	TAU_X(T,V)	{(Taub*((T+t0)/300)**{ETAUB})/(1+1*Nbuf/Nb*(0.5+1/mod_pi*arctan((V-wb0)/Lspec)))}
.FUNC   VXX(T)		{psi2(T) + tox*sqrt(2*eps0*epsi*q*Nak*psi2(T))/eps0/eox}
.FUNC   EG(T)		{1.16 - 7.02e-4*(T+t0)**2/(T+t0 + 1108)}
.FUNC   ni(T)		{1e-10*ni0*((T+t0)/300)**1.5*exp(1/(2*8.61e-5)*(-300*EG(T)+(t0+T)*EG(300))/(T+t0)/300)}
.FUNC	psi2(T)		{2*k/q*(T + t0)*(log(Nak/ni(T)) - log(1e10))}
.FUNC	DVt(T)		{psi2(T) - psi2(27) + tox*(sqrt(2*eps0*epsi*q*Nak*psi2(T)) 
+ - sqrt(2*eps0*epsi*q*Nak*psi2(27)))/eps0/eox}
.FUNC   VTX(T)		{psi2(T) + tox*sqrt(2*eps0*epsi*q*Nak*psi2(T))/eps0/eox}
.FUNC	DA(T)		{2*k*un*up/q/(un + up)*(T + t0)*(((T + t0)/300)**EMU)}
.FUNC	LA(T,V)		{sqrt(DA(T) * TAU_X(T,V)) }
.FUNC   Isx2(T)		{LIMIT(1e20*Isbs2_g*k*(t0+T)*(up + un)*(((T + t0)/300)**EMU)*ni(T)*ni(T),-1e6,1e6)} 
.FUNC   Isx1(T,V)	{LIMIT(1e10*Isbs1_g * sqrt(DA(T)/(TAU_X(T,V)))*ni(T),-1e6,1e6)} 
.FUNC   Vdep_fp(V,X)	{LIMIT(V - Agd_fp/Cox_fp*QCOX(X),0,1e8)}
.FUNC   Vdep_d(V,X)	{LIMIT(V - Agd_d/Cox_d*QCOX(X),0,1e8)}
.FUNC	ATX1(X)		{(MAX(X,.1m)**2 - wb0**2 +Lspec**2)*arctan((-MAX(X,.1m)+wb0)/Lspec)
+ - (Lspec**2 - wb0**2)*arctan(wb0/Lspec)}
.FUNC	ATX2(X)		{Lspec*MAX(X,.1m) + Lspec*wb0*log((Lspec**2 +(MAX(X,.1m) -wb0)**2)/(Lspec**2 +wb0**2))}
.FUNC	xj(V,Y2,X) {0.5*(MAX(X,.1m) + (2*eps0*epsi*MAX(V,0)/q/MAX(X,.1m)+Nbuf/mod_pi/MAX(X,.01m)*(ATX1(X) + ATX2(X)) )/
+ (Nb + MAX(Y2,0)/q/A/vlimit + Nbuf/2))}
.FUNC	Rb(X,T,Y)	{(wb-Y)*(wb-Y)/(un*(Q0)*(((T + t0)/300)**EMU) + (un + up)*MAX(X,1m*Q0)*1e-6*(((T + t0)/300)**EMU))}
.FUNC	FDX(V,X,T)	{TANH(MAX(wb-V,.1m)*1e9*MAX(X,0)/(24*DA(T)))}
.FUNC	Td(V,X,T)	{LIMIT((0.1/DA(T))*MAX(wb-V,.1m)*MAX(wb-V,.1m)*(1-FDX(V,X,T)),-1e6,1e6)}
.FUNC	F1(V,T)		{LIMIT(TAU_X(T,V)*(COSH(MAX(wb-V,.1m)/LA(T,V))-1),-1e6,1e6)}
.FUNC	F2(V,X,T)	{LIMIT(0.5*(1+2*FDX(V,X,T)/(1+FDX(V,X,T)*FDX(V,X,T))),-1e6,1e6)}
.FUNC	F3(V,X,T)	{LIMIT(1+Td(V,X,T)/(TAU_X(T,V)),-1e6,1e6)}
.FUNC	QS0(V,T)	{LIMIT(q*A*LA(T,V)*1e10*ni(T)*TANH(0.5*MAX(wb-V,.1m)/LA(T,V)),0,1e6)}
.FUNC	Qbd(Y,Z,V,X,T)	{LIMIT(MAX(Z,1m*Q0)*1e-6+Td(V,X,T)*Y,-1e6,1e6)}
.FUNC	Qb0(Y,Z,V,X,T)	{LIMIT(2*Qbd(Y,Z,V,X,T)/(F3(V,X,T)+SQRT(F3(V,X,T)*F3(V,X,T) 
+ + Td(V,X,T)*3*Isx2(T)*Qbd(Y,Z,V,X,T)/(QS0(V,T) * QS0(V,T)))),-1e6,1e6)}
.FUNC	INE(Y,Z,V,X,T)	{LIMIT(0.75*Isx2(T)*(Qb0(Y,Z,V,X,T)/QS0(V,T))*(Qb0(Y,Z,V,X,T)/QS0(V,T)),-1e6,1e6)}
.FUNC	IPC(Y,Z,V,X,T)	{LIMIT((1/3)*Y+(4/3)*(Qb0(Y,Z,V,X,T)/F1(V,T)
+ +MAX(Qb0(Y,Z,V,X,T)/TAU_X(T,V)+INE(Y,Z,V,X,T)-Y,0)*F2(V,X,T)),-1e6,1e6)}
.ENDS
*$
